* peng_tcfc_pin_3 -- AnalogGym topology on TSMC6 BSIM-CMG (LEVEL=72)
* Connectivity and mirror ratios are the shipped ones; geometry is re-designed for 0.75 V FinFET.
.subckt peng_tcfc_pin_3 gnda vdda vinn vinp vout
Nm66 net10 VB2 net049 VDDA psvt_l75_f4 m=720   $ BIASCM_PMOS
Nm11 VOUT VOUTP VDDA VDDA psvt_l100_f8 m=11   $ gmf_PMOS
Nm7 net049 VB1 VDDA VDDA psvt_l75_f4 m=720   $ BIASCM_PMOS
Nm10 net043 VOUTP VDDA VDDA psvt_l100_f8 m=11   $ gm2_PMOS
Nm57 VB1 VB2 net2 VDDA psvt_l75_f4 m=60   $ BIASCM_PMOS
Nm65 VB2 VB2 VDDA VDDA psvt_l75_f4 m=15   $ BIASCM_PMOS
Nm6 VOUTP VOUTN VDDA VDDA psvt_l75_f4 m=60   $ BIASCM_PMOS
Nm5 VOUTN VOUTN VDDA VDDA psvt_l75_f4 m=60   $ BIASCM_PMOS
Nm9 net063 VINP net31 net31 psvt_l100_f8 m=1   $ gm1_PMOS
Nm8 DM_2 VINN net31 net31 psvt_l100_f8 m=1   $ gm1_PMOS
Nm4 net31 VB1 VDDA VDDA psvt_l75_f4 m=120   $ BIASCM_PMOS
Nm62 VB3 VB2 net8 VDDA psvt_l75_f4 m=60   $ BIASCM_PMOS
Nm3 net8 VB1 VDDA VDDA psvt_l75_f4 m=60   $ BIASCM_PMOS
Nm61 net7 VB2 net6 VDDA psvt_l75_f4 m=60   $ BIASCM_PMOS
Nm2 net6 VB1 VDDA VDDA psvt_l75_f4 m=60   $ BIASCM_PMOS
Nm58 VB4 VB2 net3 VDDA psvt_l75_f4 m=60   $ BIASCM_PMOS
Nm1 net3 VB1 VDDA VDDA psvt_l75_f4 m=60   $ BIASCM_PMOS
Nm0 net2 VB1 VDDA VDDA psvt_l75_f4 m=60   $ BIASCM_PMOS
Nm23 VOUT net10 GNDA GNDA nsvt_l240_f12 m=6   $ gm3_NMOS
Nm70 net043 net043 GNDA GNDA nsvt_l75_f4 m=15   $ BIASCM_NMOS
Nm69 net10 net043 GNDA GNDA nsvt_l75_f4 m=15   $ BIASCM_NMOS
Nm19 DM_2 VB4 GNDA GNDA nsvt_l75_f4 m=120   $ BIASCM_NMOS
Nm15 VOUTN VB3 DM_2 GNDA nsvt_l75_f4 m=120   $ BIASCM_NMOS
Nm20 net063 VB4 GNDA GNDA nsvt_l75_f4 m=120   $ BIASCM_NMOS
Nm16 VOUTP VB3 net063 GNDA nsvt_l75_f4 m=120   $ BIASCM_NMOS
Nm17 net54 VB4 GNDA GNDA nsvt_l75_f4 m=60   $ BIASCM_NMOS
Nm14 VB3 VB3 GNDA GNDA nsvt_l75_f4 m=15   $ BIASCM_NMOS
Nm12 VB4 VB3 net54 GNDA nsvt_l75_f4 m=60   $ BIASCM_NMOS
Nm18 net56 VB4 GNDA GNDA nsvt_l75_f4 m=60   $ BIASCM_NMOS
Nm13 net7 VB3 net56 GNDA nsvt_l75_f4 m=60   $ BIASCM_NMOS
Nm64 net9 VB4 GNDA GNDA nsvt_l75_f4 m=60   $ BIASCM_NMOS
Nm63 VB2 VB3 net9 GNDA nsvt_l75_f4 m=60   $ BIASCM_NMOS
I0 VB1 GNDA 8e-07
C1 net049 VOUT 2.5e-12
C0 VOUTP VOUT 5e-12
.ends peng_tcfc_pin_3
